US05990102
Allyl alcohol (27 ml) in dry tetrahydrofuran (50 ml) was added dropwise to a solution of potassium tert-butoxide (4.93 g, 0.044 moles) in dry tetrahydrofuran (100 ml). After stirring for 5 minutes a solution of allyl 4-(acetylthiomethyl)benzoate (10.1 g, 0.04 moles) in dry tetrahydrofuran (100 ml) was added dropwise. After stirring for 15 minutes a solution of 4-acetoxyazetidin-2-one (5.16 g, 0.04 moles) was added dropwise. The mixture was stirred for 1 hour and evaporated. The residue was partitioned between ethyl acetate and water and the aqueous was extracted with ethyl acetate. The combined extracts were washed with brine, dried and evaporated. Flash chromatography (silica gel, ethyl acetate-petrol) gave 4-(4-Allyloxycarbonylbenzylthio)azetidin-2-one as an oil (9.1 g, 82% yield. 1H NMR δ (CDCl3) 2.84 (1H, dd, H3a), 4.31 (1H, dd, H3b), 3.88 (2H, s, S--CH2), 4.68 (1H, dd, H4), 4.78 (2H, m, CH2O), 5.35 (2H, m, CH2CH--), 6.05 (1H, m, CHCH2), 6.07 (1H, br. singlet, N--H), 7.40 (2H, d, Ph-H), 8.03 (2H, d, Ph-H).

reactant | Allyl alcohol | 27 ml | C(C=C)O | C3H6O
reactant | potassium tert-butoxide | 0.044 moles, 4.93 g | CC(C)([O-])C.[K+]
reactant | allyl 4-(acetylthiomethyl)benzoate | 0.04 moles, 10.1 g | C(C)(=O)SCC1=CC=C(C(=O)OCC=C)C=C1 | C13H14O3S
reactant | 4-acetoxyazetidin-2-one | 0.04 moles, 5.16 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-Allyloxycarbonylbenzylthio)azetidin-2-one | 82% yield | C(C=C)OC(=O)C1=CC=C(CSC2CC(N2)=O)C=C1 | C14H15NO3S
